US05135940
A. Preparation of 4-Hydroxy-3-fluoro-gamma-oxobenzenebutanoic acid, methyl ester
To a solution of 2-fluorophenol (22.4 g, 200 mmole) in 1,2-dichloroethane (250 ml) at 0° there was added AlCl3 (54 g, 400 mmole) and then succinic anhydride (20 g, 200 mmole). The reaction mixture was heated at 85° C. for 18 hours, then cooled, poured on ice and stirred for several hours at room temperature. The layers were separated and the aqueous layers extracted with CH2Cl2. The combined extracts were washed with water, dried (MgSO4) and evaporated to a semi-solid which was taken up in a solution of methanolic HCl (500 ml, approximately 3N). After standing for 24 hours the solution was poured into water, extracted with CH2Cl2, washed with water, dried and evaporated to a small volume. The crude product was purified by chromatography on silica gel to yield the title compound.

reactant | 2-fluorophenol | 200 mmole, 22.4 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | AlCl3 | 400 mmole, 54 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | succinic anhydride | 200 mmole, 20 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | 1,2-dichloroethane | 250 ml | ClCCCl | C2H4Cl2
product | 4-Hydroxy-3-fluoro-gamma-oxobenzenebutanoic acid, methyl ester | OC1=C(C=C(C=C1)C(CCC(=O)OC)=O)F | C11H11FO4
